US07030267B2
To a solution of 2-cyano-5 methyl-hex-2-enoic acid methyl ester (20.2 g, 121 mmol) in dry acetonitrile (110 mL) was added nitromethane (9.8 mL, 181 mmol) and a portionwise addition of alumina-supported potassium flouride (40% wt, 39.3 g). The reaction mixture was stirred under reflux for 2 hours and cooled to room temperature. The solid was removed by filtration through a short pad of celite and washed with acetonitrile. Excess of solvent was removed in vacuo and the residue was re-dissolved in ether. The ether layer was washed with water, brine, dried (Na2SO4) and concentrated in vacuo. The crude product was purified by flash column chromatography using hexanes/EtOAc (8:2) as an eluent to give 15 g (69%) of 1-cyano-2-isobutyl-cyclopropanecarboxylic acid methyl ester as colorless oil: 1H NMR (300 MHz, CDCl3) δ 0.98 (d, J=2.9 Hz, 3H), 1.00 (d, J=3.0 Hz, 3H), 1.35–1.42 (m, 2H), 1.65 (m, 1H), 1.79–1.94 (m, 3H), 3.81 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 19.3, 22.3, 22.4, 25.5, 27.9, 30.1, 39.0, 53.4, 117.3, 168.5.

reactant | 2-cyano-5 methyl-hex-2-enoic acid methyl ester | 121 mmol, 20.2 g | COC(C(=CCC(C)C)C#N)=O | C9H13NO2
reactant | nitromethane | 181 mmol, 9.8 mL | [N+](=O)([O-])C | CH3NO2
solvent | acetonitrile | 110 mL | C(C)#N | C2H3N
product | 1-cyano-2-isobutyl-cyclopropanecarboxylic acid methyl ester | 15 g, 69% | COC(=O)C1(C(C1)CC(C)C)C#N | C10H15NO2
